US07078405B2
4N hydrochloric acid/ethyl acetate (15 mL) was added to a solution of the crude tert-butyl N-[8-(2,4-dimethylphenyl)-2-ethylimidazo[1,2-b]pyridazin-3-yl]carbamate in ethyl acetate (5 mL), and the mixture was stirred at room temperature for 15 hours. The mixture was neutralized by adding a 5N aqueous sodium hydroxide solution under ice-cooling, and extracted with ethyl acetate. It was washed with brine, dried over anhydrous magnesium sulfate and evaporated, to give crude 8-(2,4-dimethylphenyl)-2-ethylimidazo[1,2-b]pyridazin-3-amine.

reactant | hydrochloric acid ethyl acetate | 4N, 15 mL | Cl.C(C)(=O)OCC
reactant | tert-butyl N-[8-(2,4-dimethylphenyl)-2-ethylimidazo[1,2-b]pyridazin-3-yl]carbamate | CC1=C(C=CC(=C1)C)C=1C=2N(N=CC1)C(=C(N2)CC)NC(OC(C)(C)C)=O | C21H26N4O2
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 8-(2,4-dimethylphenyl)-2-ethylimidazo[1,2-b]pyridazin-3-amine | CC1=C(C=CC(=C1)C)C=1C=2N(N=CC1)C(=C(N2)CC)N | C16H18N4
